US04124716
N,N-Diethyl-N-{2-[α-(tricyclo-(2.2.1.02.6)hept-3-ylidene)benzyloxy]-ethyl}-amine
A solution of 14 g. (53.6 mMol) of β-chloroethyl-{α-[tricyclo-(2.2.1.02.6)hept-3-ylidene]-benzyl}-ether and 20 g. (0.273 mol) of diethyl amine in 130 ml. of benzene was heated for 5 hours to 140° C. in a 0.5 liter autoclave. After cooling, the diethyl amine hydrochloride was filtered off under suction, benzene and diethyl amine distilled off in vacuo and the residue left subjected to acid-alkaline working up. The basic fraction was fractionated in vacuo.

reactant | β-chloroethyl-{α-[tricyclo-(2.2.1.02.6)hept-3-ylidene]-benzyl}-ether | 53.6 mMol | ClCCOC(C1=CC=CC=C1)=C1C2C3C2CC1C3 | C16H17ClO
reactant | diethyl amine | 0.273 mol | C(C)NCC | C4H11N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N,N-Diethyl-N-{2-[α-(tricyclo-(2.2.1.02.6)hept-3-ylidene)benzyloxy]-ethyl}-amine | C(C)N(CCOC(C1=CC=CC=C1)=C1C2C3C2CC1C3)CC | C20H27NO
